US07329658B2
Preparation of 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-isopropoxy-2-methylpyrazolo[1,5-a][1,3,5]triazine (13A-1)
To a suspension of 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 150 mg, 0.384 mmol) in isopropanol (5 ml) was added solid NaHCO3 (129 mg, 1.5 mmol), and the mixture was heated at 80° C. overnight. After cooling, the suspended solids (150 mg) were collected by filtration and the filtrate was concentrated, in vacuo, to give a solid (95 mg). The suspended solids were extracted from saturated aqueous NaHCO3 with ethyl acetate, the organic layers were dried (MgSO4) and then concentrated, in vacuo, to give a solid. The combined solids were then purified on a Biotage™ Flash 12M column using 0-10% ethyl acetate in hexanes to afford 13A-1 (91 mg, 60%) as an off-white solid: +ESI MS (M+1) 413.4; 1H NMR (400 MHz, CD2Cl2) δ 7.50-7.34 (m, 6H), 7.24 (d, J=8.7 Hz, 2H), 5.73 (septuplet, J=6.2 Hz, 1H), 2.62 (s, 3H), 1.55 (d, J=6.2 Hz, 6H).

reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.384 mmol, 150 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
reactant | NaHCO3 | 1.5 mmol, 129 mg | C(=O)(O)[O-].[Na+]
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-isopropoxy-2-methylpyrazolo[1,5-a][1,3,5]triazine | 95 mg | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2OC(C)C)C)=C1C1=CC=C(C=C1)Cl | C21H18Cl2N4O
